US05602264
Benzyl 3-hydroxyl-butanoate (Sakaki et al., Chem. Pharm. Bull., 37, p. 2952 (1989)) (0.46 g, 2.4 mmol), CuCl (11 mg, 5 mol %), and 1 (0.7 g, 110 mol %) were combined in 20 mL of dry CH3CN and heated to 60° C. for 16 h. The reaction mixture was cooled and evaporated, followed by isolation according to the general procedure to give benzyl crotonate (0.346 g, 83%) as a mobile oil: IR 3060, 3030, 1720; 1H NMR δ 7.40-7.20 (m, 5H), 7.00 (dq, 1H, J=15.5, 6.9), 5.86 (dq, 1H, J=16.0, 1.6), 5.18 (s, 2H), 1.83 (dd, 3H, J=1.7, 6.9).

reactant | Benzyl 3-hydroxyl-butanoate | 2.4 mmol, 0.46 g | OC(CC(=O)OCC1=CC=CC=C1)C | C11H14O3
solvent | CH3CN | 20 mL | CC#N | C2H3N
catalyst | CuCl | 11 mg | Cl[Cu]
product | benzyl crotonate | 0.346 g, 83% | C(\C=C\C)(=O)OCC1=CC=CC=C1 | C11H12O2
